US07157447B2
2-(2-(Aminomethyl)-5-fluorophenoxy)-1-morpholinoethanone hydrochloride.
A solution of intermediate 130, 4-fluoro-2-(2-morpholino-2-oxoethoxy)benzonitrile, (500 mg, 1.89 mmol) in warm ethanol (30 mL) and ethyl acetate (30 mL) was mixed with conc.HCl (0.32 mL, 3.78 mmol, 2 eq.). To this was added 10% Pd—C (100 mg; Aldrich), and the mixture was hydrogenated at 1 atm of hydrogen for 20 hrs at room temperature. To this mixture was added an additional amount of 10% Pd—C (50 mg) and stirring continued for another 7 hrs. The mixture was filtered through Celite and the filtrate concentrated in vacuo to dryness. The residue was triturated with ethyl acetate, then with ethanol to obtain the title compound (168 mg, Yield 29%) as an off-white powder: 1H NMR (CD3OD, 500 MHz) δ ppm: 3.55 (2H, t, J=5 Hz, NCH2), 3.62 (2H, t, J=5 Hz, NCH2), 3.70 (2H, t, J=5 Hz, OCH2), 3.75 (2H, t, J=5 Hz, OCH2), 4.17 (2H, s, NCH2), 5.17 (2H, s, OCH2), 6.82 (1H, dt, J=2.5, 8.5 Hz, Ar—H), 7.05 (1H, dd, J=2.5, 10.5 Hz, Ar—H), 7.43 (1H, dd, J=6.5, 8.5 Hz, Ar—H); 13C NMR (CD3OD, 125.77 Hz) δ ppm: 39.40, 42.49, 44.97, 66.11, 66.46, 66.59, 101.38, 101.59, 108.40, 108.57, 118.40, 132.53, 132.62, 158.43, 158.52, 63.87, 165.83, 168.27. HRMS (ESI) calcd for C13H18N2O3F (M+H) 269.1301. found 269.1301.

reactant | 4-fluoro-2-(2-morpholino-2-oxoethoxy)benzonitrile | 1.89 mmol, 500 mg | FC1=CC(=C(C#N)C=C1)OCC(=O)N1CCOCC1 | C13H13FN2O3
reactant | HCl | 3.78 mmol, 0.32 mL, 2 eq. | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 30 mL | C(C)O | C2H6O
solvent | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd—C | 100 mg | [Pd] | Pd
catalyst | Pd—C | 50 mg | [Pd] | Pd
product | 2-(2-(Aminomethyl)-5-fluorophenoxy)-1-morpholinoethanone hydrochloride | 168 mg, Yield 29% | Cl.NCC1=C(OCC(=O)N2CCOCC2)C=C(C=C1)F | InChI=1S/C13H17FN2O3.ClH/c14-11-2-1-10(8-15)12(7-11)19-9-13(17)16-3-5-18-6-4-16;/h1-2,7H,3-6,8-9,15H2;1H
